US04405333
In a reaction vessel was placed 50 ml acetic anhydride. While cooling, 14 ml of 90 percent fuming nitric acid was added. Following this, 25 g of tetrahydro-2H-pyran-3-ol was added dropwise at -8° to -10° C. over a one hour period. Stirring was continued for 1.5 hours at -10° C. The mixture was then allowed to warm to room temperature and then poured into an ice-water mixture. The organic phase settled and was separated. The organic phase was diluted with methylene chloride and also washed with aqueous NaHCO3 and dried over MgSO4. The solvent was removed under vacuum leaving 24.04 g of tetrahydro-2H-pyran-3-ol nitrate. The structure was confirmed by IR and NMR analysis.

reactant | nitric acid | 14 ml | [N+](=O)(O)[O-] | HNO3
reactant | tetrahydro-2H-pyran-3-ol | 25 g | O1CC(CCC1)O | C5H10O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | tetrahydro-2H-pyran-3-ol nitrate | 24.04 g | [N+](=O)([O-])OC1COCCC1 | C5H9NO4
